US04663347
N-Phenyl-4-methoxycarbonyloxy-3-methylbenzofuran-2-carboxamide
To a mixture of 4-hydroxy-3-methylbenzofuran-2-carboxylic acid (1.12 g, 6 mmole), ethyl chloroformate (1.01 ml, 13.2 mmole), and methylene chloride (20 ml) stirred at 0°-5° C. under argon was added triethylamine (1.82 ml, 13.2 mmole) in methylene chloride (6 ml) dropwise over 5 minutes. The mixture was stirred for 15 minutes and then aniline (1.11 mg, 12 mmole) was added followed by the dropwise addition of triethylamine (1.82 ml, 13.2 mmole) in methylene chloride (3 ml). After 30 minutes, the reaction mixture was washed with water, dried with MgSO4 and evaporated to dryness. The crude product was purified by column chromatography (70 g of Merck silica gel eluted with 1:1:3 ethyl acetate/methylene chloride/hexane to yield 1.38 g (68.1%) of product.

reactant | 4-hydroxy-3-methylbenzofuran-2-carboxylic acid | 6 mmole, 1.12 g | OC1=CC=CC2=C1C(=C(O2)C(=O)O)C | C10H8O4
reactant | ethyl chloroformate | 13.2 mmole, 1.01 ml | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 13.2 mmole, 1.82 ml | C(C)N(CC)CC | C6H15N
reactant | aniline | 12 mmole, 1.11 mg | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 13.2 mmole, 1.82 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-Phenyl-4-methoxycarbonyloxy-3-methylbenzofuran-2-carboxamide | 1.38 g, 68.1% | C1(=CC=CC=C1)NC(=O)C=1OC2=C(C1C)C(=CC=C2)OC(=O)OC | C18H15NO5
